US07622486B2
Synthesis of 4-(6-chloro-4-pyrrolidin-1-yl-pyridin-2-ylamino)-N-methyl-benzenesulfonamide
To a solution of 2,6-dichloro-4-pyrrolidino-pyridine (0.350 g, 1.62 mmol) in toluene (6 mL) were added potassium tert-butoxide (0.132 g, 1.18 mmol), palladium(II)-acetate (36.40 mg, 0.160 mmol), BINAP (32 mg, 0.514 mmol) and 4-amino-N-methyl-benzenesulfonamide (227 mg, 1.22 mmol) in a 10 mL reaction vessel. This reaction mixture was subjected the microwave irradiation, in which the microwave power was 250 W, to attain a reaction temperature of 150° C. After this reaction proceeded for 30 min, water (150 mL) was added to the reaction mixture and the reaction product was extracted with ethyl acetate. The organic layer was dried over sodium sulphate, filtered, and the filtrate concentrated under vacuum. The product was purified through column chromatography using 230-400 mesh silica gel (elution 20:80 acetone:petroleum ether) to afford the desired compound as a light brown solid (110 mg, yield 19%).

reactant | 2,6-dichloro-4-pyrrolidino-pyridine | 1.62 mmol, 0.350 g | ClC1=NC(=CC(=C1)N1CCCC1)Cl | C9H10Cl2N2
reactant | potassium tert-butoxide | 1.18 mmol, 0.132 g | CC(C)([O-])C.[K+]
reactant | BINAP | 0.514 mmol, 32 mg | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
reactant | 4-amino-N-methyl-benzenesulfonamide | 1.22 mmol, 227 mg | NC1=CC=C(C=C1)S(=O)(=O)NC | C7H10N2O2S
solvent | toluene | 6 mL | C1(=CC=CC=C1)C | C7H8
catalyst | palladium(II)-acetate | 0.160 mmol, 36.40 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | water | 150 mL | O | H2O
product | 4-(6-chloro-4-pyrrolidin-1-yl-pyridin-2-ylamino)-N-methyl-benzenesulfonamide | 110 mg, yield 19% | ClC1=CC(=CC(=N1)NC1=CC=C(C=C1)S(=O)(=O)NC)N1CCCC1 | C16H19ClN4O2S
